US06297375B1
b) Benzyl-(5-methylamino-4-o-tolyl-pyridin-2-yl)-carbamic acid benzyl ester
To a solution of 2.03 g (6.7 mmol) N2-benzyl-N5-methyl-4-o-tolyl-pyridine-2,5-diamine in 100 ml dichloromethane and 40 ml N-ethyldiisopropylamine was added dropwise at 0° C. a solution of 2.1 ml (14.09 mmol) benzyl chloroformate in 50 ml dichloromethane. After stirring for 2 h at room temperature the reaction mixture was washed with water (2×50 ml), brine (50 ml), dried (magnesium sulfate) and evaporated. Chromatography of the residue afforded 2.36 g (80%) of the title compound as light brown crystals. M.p. 110-112° C.

reactant | N2-benzyl-N5-methyl-4-o-tolyl-pyridine-2,5-diamine | 6.7 mmol, 2.03 g | C(C1=CC=CC=C1)NC1=NC=C(C(=C1)C1=C(C=CC=C1)C)NC | C20H21N3
reactant | benzyl chloroformate | 14.09 mmol, 2.1 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | N-ethyldiisopropylamine | 40 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Benzyl-(5-methylamino-4-o-tolyl-pyridin-2-yl)-carbamic acid benzyl ester | 2.36 g, 80% | C(C1=CC=CC=C1)OC(N(C1=NC=C(C(=C1)C1=C(C=CC=C1)C)NC)CC1=CC=CC=C1)=O | C28H27N3O2
